US07902248B2
Hydrazine monohydrate (2.24 mL, 42.20 mmol) was added to a solution of 2-cyclohexyloxy-isoindole-1,3-dione (4.88 g, 21.10 mmol) in a mixture of methanol (12 mL) and methylene chloride (120 mL), and the mixture was stirred at 25° C. for 4 h. The resulting precipitate was filtered off in vacuo, and the filtrate was washed with 5.0 N aqueous ammonium hydroxide (60 mL). The aqueous layer was extracted with methylene chloride (2×25 mL). The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was dissolved in a 4.0 M solution of hydrochloric acid in dioxane (12 mL) and diluted with diethyl ether (70 mL). The resulting precipitate was collected by filtration in vacuo to afford O-cyclohexyl-hydroxylamine hydrochloride (1.71 g, 45.7%) as a white solid, which was used in the next step without further purification.

reactant | Hydrazine monohydrate | 42.20 mmol, 2.24 mL | O.NN
reactant | 2-cyclohexyloxy-isoindole-1,3-dione | 21.10 mmol, 4.88 g | C1(CCCCC1)ON1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
reactant | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 12 mL | CO | CH4O
product | O-cyclohexyl-hydroxylamine hydrochloride | 1.71 g, 45.7% | Cl.C1(CCCCC1)ON | InChI=1S/C6H13NO.ClH/c7-8-6-4-2-1-3-5-6;/h6H,1-5,7H2;1H
